US08877815B2
Synthesis of 3-(1-(Carboxymethyl)cyclopentanecarboxamido)-2-(4-(pyridin-2-yl)benzyl)propanoic acid
Tert-Butyl 3-(1-(2-(benzyloxy)-2-oxoethyl)cyclopentanecarboxamido)-2-(4-(pyridin-2-yl)benzyl)propanoate was dissolved in EtOAc (5 ml) and hydrogenated with 10% Pd/C under H2 at room temperature. After 3 hours, the reaction mixture was filtered and concentrated under reduced pressure. To the obtained residue in DCM (1.00 ml) at room temperature was added TFA, and the reaction mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure. The obtained residue was purified by reverse phase HPLC [5 to 35% ACN-water (0.1°/oTFA) over 10 min by X-bridge phenyl column] to give the title compound (48 mg). LCMS (condition A): 411.3 (M+1); retention time=1.24 min. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.44-1.62 (m, 6H), 1.96-2.06 (m, 2H), 2.59 (dd, J=18.7, 16.4 Hz, 2H), 2.74-2.91 (m, 3H), 3.14-3.24 (m, 1H), 3.24-3.33 (m, 1H), 7.34 (d, J=8.3 Hz, 2H), 7.47-7.53 (m, 1H), 7.68 (t, J=5.6 Hz, 1H), 7.96 (d, J=8.3 Hz, 2H), 8.03-8.11 (m, 2H), 8.68-8.74 (m, 1H).

reactant | Tert-Butyl 3-(1-(2-(benzyloxy)-2-oxoethyl)cyclopentanecarboxamido)-2-(4-(pyridin-2-yl)benzyl)propanoate | C(C1=CC=CC=C1)OC(CC1(CCCC1)C(=O)NCC(C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=CC=C1)=O | C34H40N2O5
solvent | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
solvent | Pd/C | [Pd] | Pd
product | 3-(1-(Carboxymethyl)cyclopentanecarboxamido)-2-(4-(pyridin-2-yl)benzyl)propanoic acid | 48 mg | C(=O)(O)CC1(CCCC1)C(=O)NCC(C(=O)O)CC1=CC=C(C=C1)C1=NC=CC=C1 | C23H26N2O5
